US06150359
Alternative Conditions. To a solution of sodium (169 mg, 7.35 mmol) dissolved in 2-ethoxyethanol (7.0 mL) was added 2,6-dichlorophenylacetonitrile (1.40 g, 7.53 mmol) and (IV) (502 mg, 3.66 mmol), and the mixture was then stirred at reflux for 30 minutes. The resulting solution was diluted with aqueous NaHCO3 (50 mL) and extracted with EtOAc (3×50 mL). The solvents were removed under reduced pressure, then chromatography of the residue on silica gel, eluting with 2-3% MeOH/CH2Cl2, gave firstly a mixed fraction, which on crystallisation from CHCl3 /light petroleum gave 2,6-dichlorophenylacetamide (165 mg): mp (MeOH/CH2Cl2) 211.5-213° C.

reactant | sodium | 7.35 mmol, 169 mg | [Na] | Na
reactant | 2,6-dichlorophenylacetonitrile | 7.53 mmol, 1.40 g | ClC1=C(C(=CC=C1)Cl)CC#N | C8H5Cl2N
reactant | 2-ethoxyethanol | 7.0 mL | C(C)OCCO | C4H10O2
solvent | NaHCO3 | 50 mL | C(=O)(O)[O-].[Na+]
product | 2,6-dichlorophenylacetamide | 165 mg | ClC1=C(C(=CC=C1)Cl)CC(=O)N | C8H7Cl2NO
